US08217043B2
a) 2-(S)-{[4-(4-Fluoro-benzyl)-1-hydroxy-3-oxo-6-trifluoromethyl-3,4-dihydro-4,4a-diaza-fluorene-2-carbonyl]-amino}-propionic acid
A mixture of 4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-6-trifluoromethyl-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester (compound 43 d) (100 mg, 0.23 mmol), L-alanine (205 mg, 2.3 mmol) and sodium methoxide (99 mg, 1.84 mmol) in 2-methoxyethanol (3.5 mL) was microwaved at 150° C. for 2 h and concentrated. Residue was dissolved in water (80 mL), acidified to pH=3-4 using 1 N HCl solution and extracted with EtOAc. Organic layer was washed with brine, dried over MgSO4, filtered and concentrated. Crude product was purified by silica gel chromatography (15%-70% EtOAc (with 0.075% HOAc)/hexanes (with 0.1% HOAc)) to provide the title compound 34 mg. ESI (m/z): 490.03 (M−H)−.

reactant | 4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-6-trifluoromethyl-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester | 0.23 mmol, 100 mg | COC(=O)C1=C(C2=CC3=CC=C(C=C3N2N(C1=O)CC1=CC=C(C=C1)F)C(F)(F)F)O | C21H14F4N2O4
reactant | L-alanine | 2.3 mmol, 205 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium methoxide | 1.84 mmol, 99 mg | C[O-].[Na+]
solvent | 2-methoxyethanol | 3.5 mL | COCCO | C3H8O2
product | 2-(S)-{[4-(4-Fluoro-benzyl)-1-hydroxy-3-oxo-6-trifluoromethyl-3,4-dihydro-4,4a-diaza-fluorene-2-carbonyl]-amino}-propionic acid | 34 mg | FC1=CC=C(CN2C(C(=C(C3=CC4=CC=C(C=C4N23)C(F)(F)F)O)C(=O)N[C@H](C(=O)O)C)=O)C=C1 | C23H17F4N3O5
